US06787652B1
N-{5-[2,6-Dichloro-4-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-methoxy-phenyl}-4-fluoro-benzenesulfonamide
To a stirred solution of 2-[3,5-dichloro-4-(3-amino-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (100 mg) in pyridine (1 mL) was added 4-fluorobenzenesulfonyl chloride (59 mg) and the resulting solution was allowed to stir at room temperature for 1 h. The reaction solution was poured over water, extracted with ethyl acetate, the organic layer washed with 1N hydrochloric acid, water, brine, dried (Na2SO4), concentrated in vacuo and flash chromatographed on silica gel (40% aceton/hexanes) to afford the title compound of Step B as a light-yellow colored solid, 115 mg. m.p. 90-96° C., MS Calc.:553.4; Found:550.9.

reactant | 2-[3,5-dichloro-4-(3-amino-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 100 mg | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)N)Cl)N1N=CC(NC1=O)=O | C16H12Cl2N4O4
reactant | 4-fluorobenzenesulfonyl chloride | 59 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | water | O | H2O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-{5-[2,6-Dichloro-4-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-methoxy-phenyl}-4-fluoro-benzenesulfonamide | ClC1=C(OC=2C=CC(=C(C2)NS(=O)(=O)C2=CC=C(C=C2)F)OC)C(=CC(=C1)N1N=CC(NC1=O)=O)Cl | C22H15Cl2FN4O6S
